US09359344B2
1-(methoxymethyl)-4-nitro-1H-1,2,3-triazole (5.517 g, 34.891 mmol), zinc powder (22.697 g, 349.185 mmol) and ammonium chloride (18.678 g, 349.187 mmol) were added successively into a mixed solvent of methanol (100 mL) and tetrahydrofuran (100 mL), and stirred for 18 hours. The insoluble was removed by suction filtration. After concentration, 1-(methoxymethyl)-4-amino-1H-1,2,3-triazole was obtained as 3.56 g of a brown-yellow oil, at a yield of 79.6%.

reactant | 1-(methoxymethyl)-4-nitro-1H-1,2,3-triazole | 34.891 mmol, 5.517 g | COCN1N=NC(=C1)[N+](=O)[O-] | C4H6N4O3
reactant | ammonium chloride | 349.187 mmol, 18.678 g | [Cl-].[NH4+]
reactant | methanol | 100 mL | CO | CH4O
catalyst | zinc | 349.185 mmol, 22.697 g | [Zn] | Zn
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(methoxymethyl)-4-amino-1H-1,2,3-triazole | yield of 79.6% | COCN1N=NC(=C1)N | C4H8N4O
